US05763458
Proceeding as in Example 4, Step (c), but replacing 1-(4-acetylamino-5-chloro-2-methoxyphenyl)-5-chloropentan-1-one with 1-[4-acetylamino-5-chloro-2-(3,5-dimethoxybenzyloxy)phenyl]-5-chloropentan-1-one and piperidine with 4-(aminocarbonyl)aminopiperidine, gave 1-[4-amino-5-chloro-2-(3,5-dimethoxy-benzyloxy) phenyl]-5-[4-(aminocarbonyl)aminopiperidin-1-yl]pentan-1-one hydrochloride, m.p. 220°-224° C.

reactant | 1-[4-acetylamino-5-chloro-2-(3,5-dimethoxybenzyloxy)phenyl]-5-chloropentan-1-one | C(C)(=O)NC1=CC(=C(C=C1Cl)C(CCCCCl)=O)OCC1=CC(=CC(=C1)OC)OC | C22H25Cl2NO5
reactant | piperidine | N1CCCCC1 | C5H11N
reactant | 4-(aminocarbonyl)aminopiperidine | NC(=O)NC1CCNCC1 | C6H13N3O
product | 1-[4-amino-5-chloro-2-(3,5-dimethoxy-benzyloxy) phenyl]-5-[4-(aminocarbonyl)aminopiperidin-1-yl]pentan-1-one hydrochloride | Cl.NC1=CC(=C(C=C1Cl)C(CCCCN1CCC(CC1)NC(=O)N)=O)OCC1=CC(=CC(=C1)OC)OC | InChI=1S/C26H35ClN4O5.ClH/c1-34-19-11-17(12-20(13-19)35-2)16-36-25-15-23(28)22(27)14-21(25)24(32)5-3-4-8-31-9-6-18(7-10-31)30-26(29)33;/h11-15,18H,3-10,16,28H2,1-2H3,(H3,29,30,33);1H
